US05643920
Preparation of 1-(4-chlorophenyl)-8,9-dihydro-7H-pyrrolo[3,2,1-ij]quinolin-7-one
5,6,7,8-Tetrahydroquinolin-5-one (35 g) was dissolved in 80 ml of toluene. To this solution was added 4-chlorophenacyl bromide (55.6 g) gradually and refluxed for 18 hours. The reaction mixture was cooled to room temperature, and depositing crystals were collected by filtration (78 g). These solids were dissolved in 700 ml of N,N-dimethylformamide. To this solution was added, molecular sieves 3A (30 g) and triethylamine (34 ml), then the reaction mixture was heated at 100° C. for 1 hour. The reaction mixture became dark brown. The dark brown solution that obtained after removing insoluble matter by filtration was concentrated under reduced pressure. To the residue was added 300 ml of water, and extracted with 200 ml of methylene chloride three times. This methylene chloride solution was washed with 100 ml of brine and dried over anhydrous sodium sulfate. The dark brown solution that obtained after removing drying agent by filtration was concentrated under reduced pressure, the resultant dark brown residue was purified by alumina column chromatography. The title compound was obtained as dark red crystals (29 g).

reactant | 5,6,7,8-Tetrahydroquinolin-5-one | 35 g | N1=CC=CC=2C(CCCC12)=O | C9H9NO
reactant | 4-chlorophenacyl bromide | 55.6 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlorophenyl)-8,9-dihydro-7H-pyrrolo[3,2,1-ij]quinolin-7-one | ClC1=CC=C(C=C1)C1=CN2C=CC=C3C(CCC1=C23)=O | C17H12ClNO
